US05225601
4-Carbethoxyphenyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylmethyl ether
10 g (36 mmol) of 2-bromomethyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene, 6 g (36 mmol) of ethyl 4-hydroxybenzoate and 7.2 g (52 mmol) of anhydrous potassium carbonate in 60 ml of dimethylformamide were refluxed for 5.25 h. The mixture was then poured into water and extracted several times with ether, and the organic phase was washed with water, dried over Na2SO4 and concentrated. Recrystallization from methanol resulted in 6.7 g of the title compound of melting point 109°-11° C.

reactant | 2-bromomethyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene | 36 mmol, 10 g | BrCC1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C15H21Br
reactant | ethyl 4-hydroxybenzoate | 36 mmol, 6 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | potassium carbonate | 52 mmol, 7.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 4-Carbethoxyphenyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylmethyl ether | 6.7 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)COC1=CC=C(C=C1)C(=O)OCC)C | C24H30O3
